US07414063B2
Isoquinoline-5-sulfonic acid {2-[2-(4-chloro-2-(3-trifluoromethyl-benzyl)-phenyloxy)-ethylamino]-ethyl}-amide
By following a similar procedure as described in Example 1, DIBAL-H reduction of [4-chloro-2-(3-trifluoromethyl-benzyl)-phenyloxy]-acetic acid methyl ester, and subsequent reductive amination with isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide gives the free amine of the title compound as a clear gum. ESIMS: m/z 564 [(M+H)+, 35Cl], 566 [(M+H)+, 37Cl].

reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | [4-chloro-2-(3-trifluoromethyl-benzyl)-phenyloxy]-acetic acid methyl ester | COC(COC1=C(C=C(C=C1)Cl)CC1=CC(=CC=C1)C(F)(F)F)=O | C17H14ClF3O3
reactant | isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide | NCCNS(=O)(=O)C=1C=2C=CN=CC2C=CC1 | C11H13N3O2S
product | Isoquinoline-5-sulfonic acid {2-[2-(4-chloro-2-(3-trifluoromethyl-benzyl)-phenyloxy)-ethylamino]-ethyl}-amide | ClC1=CC(=C(C=C1)OCCNCCNS(=O)(=O)C=1C=2C=CN=CC2C=CC1)CC1=CC(=CC=C1)C(F)(F)F | C27H25ClF3N3O3S
